US06916825B2
10. (8S,9R)-2,3-Dimethyl-8-hydroxy-7-methylidene-9-phenyl-7,8,9,10-tetrahydroimidazo[1,2-h][1,7]-naphthyridine
A mixture of 1.0 g of (7R,8R,9R)-2,3,7-trimethyl-7,8-dihydroxy-9-phenyl-7,8,9,10-tetrahydroimidazo[1,2-h][1,7]naphthyridine and 0.45 g of conc. sulfuric acid in 15 ml of 2-methoxyethanol is vigorously stirred at room temperature for 48 h, the reaction mixture is poured into 50 ml of saturated aqueous sodium hydrogencarbonate solution, extracted three times with 50 ml of dichloromethane each time, and the organic phases are combined and washed with a little water. After stripping off the solvent in vacuo, the oily residue obtained is purified on silica gel (eluent: dichloromethane/methanol 100/1). 0.22 g of the title compound is obtained as pale yellow crystals of melting point 199-202° C. (diethyl ether).

reactant | (7R,8R,9R)-2,3,7-trimethyl-7,8-dihydroxy-9-phenyl-7,8,9,10-tetrahydroimidazo[1,2-h][1,7]naphthyridine | 1.0 g | CC=1N=C2N(C=CC=3[C@]([C@@H]([C@H](NC23)C2=CC=CC=C2)O)(O)C)C1C | C19H21N3O2
reactant | sulfuric acid | 0.45 g | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydrogencarbonate | 50 ml | C(O)([O-])=O.[Na+]
solvent | 2-methoxyethanol | 15 ml | COCCO | C3H8O2
product | (8S,9R)-2,3-Dimethyl-8-hydroxy-7-methylidene-9-phenyl-7,8,9,10-tetrahydroimidazo[1,2-h][1,7]-naphthyridine | 0.22 g | CC=1N=C2N(C=CC=3C([C@@H]([C@H](NC23)C2=CC=CC=C2)O)=C)C1C | C19H19N3O
